US08871767B2
2,2-dimethyl-N-[2-methyl-5-[6-[2-(trifluoromethyl)-3-pyridyl]imidazo[2,1-f]pyridazin-2-yl]phenyl]propanamide
An 8 mL vial is charged with N-[5-(6-chloroimidazo[2,1-f]pyridazin-2-yl)-2-methyl-phenyl]-2,2-dimethyl-propanamide (0.034 g, 0.0001 mol), [2-(trifluoromethyl)-3-pyridyl]boronic acid (Combi-Blocks, 0.038 g), bis(triphenylphosphine)palladium(II) dichloride (0.007 g), Na2CO3 (0.032 g), and isopropanol-water (1 mL, 3:1). The mixture is heated at 80° C. for 16 hr. The mixture is concentrated, taken up in EtOAc and CH2Cl2 (1:1), filtered, concentrated onto celite, and purified by silica gel chromatography (0-100% EtOAc in Hexanes) to give the title compound (0.015 g, 33% yield). LCMS m/z=454.6 [M+H]+, tR=2.52 min. (compound same as Example 284)

reactant | N-[5-(6-chloroimidazo[2,1-f]pyridazin-2-yl)-2-methyl-phenyl]-2,2-dimethyl-propanamide | 0.0001 mol, 0.034 g | ClC1=NN2C(C=C1)=NC(=C2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C | C18H19ClN4O
reactant | [2-(trifluoromethyl)-3-pyridyl]boronic acid | 0.038 g | FC(C1=NC=CC=C1B(O)O)(F)F | C6H5BF3NO2
reactant | Na2CO3 | 0.032 g | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.007 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | isopropanol water | 1 mL | C(C)(C)O.O
product | 2,2-dimethyl-N-[2-methyl-5-[6-[2-(trifluoromethyl)-3-pyridyl]imidazo[2,1-f]pyridazin-2-yl]phenyl]propanamide | 0.015 g, 33% yield | CC(C(=O)NC1=C(C=CC(=C1)C=1N=C2C=CC(=NN2C1)C=1C(=NC=CC1)C(F)(F)F)C)(C)C | C24H22F3N5O
